US06495546B1
Under nitrogen, to a solution of 2-(8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy)-N-butylacetamide (388 mg) and (2S)-1-(4-benzyloxyphenoxy)-2,3-epoxypropane (340 mg) in dichloromethane (10 ml) was added ytterbium(III) trifluoromethanesulfonate (63 mg) at room temperature, and the mixture was stirred at the same temperature for 3 hours. The resulting mixture was poured into saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed (hexane-ethyl acetate) over silica gel to afford 2-[8-[N-benzyl-N-[(2S)-3-(4-benzyloxyphenoxy)-2-hydroxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]-N-butylacetamide (300 mg).

reactant | 2-(8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy)-N-butylacetamide | 388 mg | C(C1=CC=CC=C1)NC1CCCC2=C(C1)C=C(C=C2)OCC(=O)NCCCC | C24H32N2O2
reactant | (2S)-1-(4-benzyloxyphenoxy)-2,3-epoxypropane | 340 mg | C(C1=CC=CC=C1)OC1=CC=C(OC[C@@H]2CO2)C=C1 | C16H16O3
reactant | ytterbium(III) trifluoromethanesulfonate | 63 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[8-[N-benzyl-N-[(2S)-3-(4-benzyloxyphenoxy)-2-hydroxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]-N-butylacetamide | 300 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)C1CCCC2=C(C1)C=C(C=C2)OCC(=O)NCCCC | C40H48N2O5
